US09340544B2
(2-Chloro-9-methyl-9H-purin-6-yl)-(4-chloro-phenyl)-amine (3.58 g, 12.1 mmol) was dissolved in tetrahydrofuran (50 mL). Hydrazine monohydrate (26 mL, 536 mmol) was added and the reaction mixture was heated to reflux over night. The next day water was added and the resulting solid was collected by filtration, washed with water and dried to give (4-chloro-phenyl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine (3.16 g, 90%) as a white crystalline compound.

reactant | (2-Chloro-9-methyl-9H-purin-6-yl)-(4-chloro-phenyl)-amine | 12.1 mmol, 3.58 g | ClC1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C=C1)Cl | C12H9Cl2N5
reactant | Hydrazine monohydrate | 536 mmol, 26 mL | O.NN
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (4-chloro-phenyl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine | 3.16 g, 90% | ClC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)NN)C | C12H12ClN7
